US08039460B2
Step B: tert-Butyl (6S,9R)-6-(2,3-difluorophenyl)-3-(2,2,2-trifluoroethyl)-6,7,8,9-tetrahydro-5H-[1,2,4]triazolo[4,3-a]azepin-9-ylcarbamate
Triethylamine (0.259 mL, 1.86 mmol) was added to a solution of tert-butyl (3R,6S)-6-(2,3-difluorophenyl)-2-hydrazonoazepan-3-ylcarbamate (548 mg, 1.55 mmol), 3,3,3-trifluoropropionic acid (0.205 mL, 2.32 mmol), 1-(3-dimethylaminopropyl)-3-ethylcarbodimmide hydrochloride (356 mg, 1.86 mmol), and 1-hydroxy-7-azabenzotriazole (253 mg, 1.86 mmol) in dichloromethane (55 mL). After 18 h, saturated aqueous sodium bicarbonate was added and the mixture was extracted with dichloromethane (3×). The combined organic extracts were dried over sodium sulfate, filtered, and concentrated. Purification by silica gel chromatography (100% dichloromethane→96% dichloromethane/methanol) gave the title compound (618 mg). MS 447.1 (M+1).

reactant | Triethylamine | 1.86 mmol, 0.259 mL | C(C)N(CC)CC | C6H15N
reactant | tert-butyl (3R,6S)-6-(2,3-difluorophenyl)-2-hydrazonoazepan-3-ylcarbamate | 1.55 mmol, 548 mg | FC1=C(C=CC=C1F)[C@@H]1CC[C@H](C(NC1)=NN)NC(OC(C)(C)C)=O | C17H24F2N4O2
reactant | 3,3,3-trifluoropropionic acid | 2.32 mmol, 0.205 mL | FC(CC(=O)O)(F)F | C3H3F3O2
reactant | 1-hydroxy-7-azabenzotriazole | 1.86 mmol, 253 mg | ON1N=NC2=C1N=CC=C2 | C5H4N4O
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | dichloromethane | 55 mL | ClCCl | CH2Cl2
product | tert-Butyl (6S,9R)-6-(2,3-difluorophenyl)-3-(2,2,2-trifluoroethyl)-6,7,8,9-tetrahydro-5H-[1,2,4]triazolo[4,3-a]azepin-9-ylcarbamate | 618 mg | FC1=C(C=CC=C1F)[C@@H]1CC[C@H](C=2N(C1)C(=NN2)CC(F)(F)F)NC(OC(C)(C)C)=O | C20H23F5N4O2
